US06124281
1-Hydroxy-3-(isothiocyanato)-tetrabutyldistannoxane
A mixture of di-n-butyltin oxide (2.14 g, 8.6 mmol) and di-n-butyltin diisothiocyanate (1.0 g, 2.8 mmol) in ethanol (30 mL) was heated to reflux for 6 hours during which time the white slurry became a clear solution. The reaction mixture was concentrated via rotary evaporator to a solid which was pulverized and left exposed at ambient temperature for 18 hours. The powder was recrystallized from hexanes at 0° C. to give the title compound as a white solid (2.74 g, 86%).

reactant | di-n-butyltin oxide | 8.6 mmol, 2.14 g | C(CCC)[Sn](CCCC)=O
reactant | di-n-butyltin diisothiocyanate | 2.8 mmol, 1.0 g | C(CCC)[Sn](CCCC)(N=C=S)N=C=S
reactant | ethanol | 30 mL | C(C)O | C2H6O
product | 1-Hydroxy-3-(isothiocyanato)-tetrabutyldistannoxane | 2.74 g, 86% | O[Sn](O[Sn](N=C=S)(CCCC)CCCC)(CCCC)CCCC | InChI=1S/4C4H9.CNS.H2O.O.2Sn/c4*1-3-4-2;2-1-3;;;;/h4*1,3-4H2,2H3;;1H2;;;/q;;;;-1;;;2*+1/p-1
